US07309703B2
3-(4-Chloro-3-methyl-phenyl)-1-{3-[4-(2-cyano-phenyl)-piperazin-1-yl]-2-hydroxy-propyl}-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester (1.26 g, 2.13 mmol) was dissolved in trifluoroacetic acid (3 mL) and CH2Cl2 (3 mL) and allowed to stir for 2 h. The reaction mixture was concentrated, taken up in EtOAc (50 mL) and washed with aqueous NaHCO3 (2×25 mL). The EtOAc layer was dried over Na2SO4 and concentrated to give 2-(4-{3-[3-(4-chloro-3-methyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-2-hydroxy-propyl}-piperazin-1-yl)-benzonitrile (1.05 g, 99%) as a yellow foam. TLC (silica, 10% MeOH/CH2Cl2): Rf=0.27. MS (electrospray): m/z 491.2 (491.2, calculated for C27H31ClN6O, [M+H]+). 1H NMR (400 MHz, CDCl3): 9.8 (br s, 1H), 7.55 (d, J=7.6 Hz, 1H), 7.50 (t, J=8.2 Hz, 1H), 7.38 (s, 1H), 7.31 (d, J=8.2 Hz, 1H), 7.20 (d, J=8.2 Hz, 1H), 7.11 (t, J=8.2 Hz, 1H), 6.98 (d, J=8.2 Hz, 1H), 4.56 (brs, 1H), 4.12-4.32 (m, 4H), 2.98-3.51 (m, 13 H), 2.35 (s, 3H).

reactant | 3-(4-Chloro-3-methyl-phenyl)-1-{3-[4-(2-cyano-phenyl)-piperazin-1-yl]-2-hydroxy-propyl}-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester | 2.13 mmol, 1.26 g | C(C)(C)(C)OC(=O)N1CC2=C(CC1)N(N=C2C2=CC(=C(C=C2)Cl)C)CC(CN2CCN(CC2)C2=C(C=CC=C2)C#N)O | C32H39ClN6O3
reactant | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(4-{3-[3-(4-chloro-3-methyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-2-hydroxy-propyl}-piperazin-1-yl)-benzonitrile | 1.05 g, 99% | ClC1=C(C=C(C=C1)C1=NN(C2=C1CNCC2)CC(CN2CCN(CC2)C2=C(C#N)C=CC=C2)O)C | C27H31ClN6O
